US06825191B2
Synthesis of Ethyl 4-(4-chlorobenzoyl)-2-oxo-1-[4-(1-pyrrolidinecarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepine-8-carboxylate
5 mg (0.009 mmol) of 4-(4-chlorobenzoyl)-2-oxo-1-[4-(1-pyrrolidinecarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepine-8-carboxylic acid was dissolved in 5 ml of dichloromethane. 0.001 ml (0.018 mmol) of ethanol, 2 mg (0.011 mmol) of 2-chloro-1,3-dimethylimidazonium chloride and 0.003 ml (0.018 mmol) of triethylamine were added to the obtained solution, and they were stirred overnight. The solvent was evaporated and the obtained crude product was treated in the same manner as in step 3 in Example 1 to obtain the title compound.

reactant | 4-(4-chlorobenzoyl)-2-oxo-1-[4-(1-pyrrolidinecarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepine-8-carboxylic acid | 0.009 mmol, 5 mg | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)C(=O)O)CC3=CC=C(C=C3)C(=O)N3CCCC3)=O)C=C1 | C29H26ClN3O5
reactant | ethanol | 0.018 mmol, 0.001 ml | C(C)O | C2H6O
reactant | triethylamine | 0.018 mmol, 0.003 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | Ethyl 4-(4-chlorobenzoyl)-2-oxo-1-[4-(1-pyrrolidinecarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepine-8-carboxylate | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)C(=O)OCC)CC3=CC=C(C=C3)C(=O)N3CCCC3)=O)C=C1 | C31H30ClN3O5
